US08859591B2
Methyl 4-(3-methyl-1-(4-(4-(trifluoromethyl)-1H-imidazol-1-yl)phenyl)butoxy)benzoate (65 mg, 0.15 mmol) was dissolved in methanol (1.5 mL) and 1M NaOH (0.75 mL) was added at room temperature. The resulting mixture was stirred overnight. The reaction mixture was diluted with water (10 mL), acidified with 1M HCl (1 mL) and extracted with ethyl acetate (2×10 mL). The combined organics were washed with brine, dried over sodium sulfate, filtered and concentrated to give (+/−)-4-(3-methyl-1-(4-(4-(trifluoromethyl)-1H-imidazol-1-yl)phenyl)butoxy)benzoic acid (65 mg, 100%) as a gum. 1H NMR (400 MHz, CDCl3, δ): 7.98 (d, J=9 Hz, 2H), 7.88 (s, 1H), 7.59 (d, J=8.5 Hz, 2H), 7.58 (s, 1H), 7.39 (d, J=8.5 Hz, 2H), 6.89 (d, J=8.8 Hz, 2H), 5.33 (dd, J=9, 4.6 Hz, 1H), 2.05 (m, 1H), 1.96-1.83 (m, 1H), 1.67-1.60 (m, 1H), 1.04 (d, J=6.6 Hz, 3H), 0.99 (d, J=6.6 Hz, 3H). MS (M+1): 419.0.

reactant | Methyl 4-(3-methyl-1-(4-(4-(trifluoromethyl)-1H-imidazol-1-yl)phenyl)butoxy)benzoate | 0.15 mmol, 65 mg | CC(CC(OC1=CC=C(C(=O)OC)C=C1)C1=CC=C(C=C1)N1C=NC(=C1)C(F)(F)F)C | C23H23F3N2O3
reactant | NaOH | 1M, 0.75 mL | [OH-].[Na+]
reactant | HCl | 1M, 1 mL | Cl | ClH
solvent | methanol | 1.5 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | (+/−)-4-(3-methyl-1-(4-(4-(trifluoromethyl)-1H-imidazol-1-yl)phenyl)butoxy)benzoic acid | 65 mg, 100% | CC(CC(OC1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)N1C=NC(=C1)C(F)(F)F)C | C22H21F3N2O3
